US05945425
2-[[(5,6-Dimethyl-1H-benzimidazol-2-yl)thio]methyl]benzenamine
The title compound was prepared by the method of Example 1 using 2.56 g of 5,6-dimethyl-2-mercaptobenzimidazole instead of 2-mercaptobenzimidazole and 2.56 g of 2-(chloromethyl) aniline hydrochloride instead of 2-(chloromethyl)-N,N-dimethylaniline. Instead of using sodium carbonate in an extraction, the crude precipitate was neutralized with triethylamine in methanol. Trituration of the resultant crude title compound with methanol and diethyl ether gave 2.0 g of analytically pure title compound. Anal. Calc'd. for C15H15N3S: C, 67.81; H, 6.05; N,14.83; S, 11.31. Found: C, 67.21; H, 6.16; N, 14.50; S, 11.06.

reactant | 5,6-dimethyl-2-mercaptobenzimidazole | 2.56 g | CC1=CC2=C(N=C(N2)S)C=C1C | C9H10N2S
reactant | 2-(chloromethyl) aniline hydrochloride | 2.56 g | Cl.ClCC1=C(N)C=CC=C1
product | 2-[[(5,6-Dimethyl-1H-benzimidazol-2-yl)thio]methyl]benzenamine | CC1=CC2=C(NC(=N2)SCC2=C(C=CC=C2)N)C=C1C | C16H17N3S
